US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-[(4-fluoropiperidin-1-yl)methyl]benzamide
A solution of NaHMDS in THF (1 M, 0.65 ml, 0.65 mmol, 1.5 eq) was added dropwise at ambient temperature to a mixture of tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl) ethyl]pyrazole-1-carboxylate (150 mg, 0.43 mmol, 1 eq) and methyl 4-[(4-fluoropiperidin-1-yl)methyl]benzoate (131 mg, 0.52 mmol, 1.2 eq) in THF (0.5 ml). The reaction mixture was stirred at ambient temperature for 1 h. It was then concentrated and the crude product was purified by reverse-phase prep. HPLC (basic) using a 39-49% gradient of acetonitrile in water containing 1% ammonium hydroxide solution. The clean fractions were taken and evaporated to afford the title compound as a colourless solid (33 mg, 16% yield).

reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl) ethyl]pyrazole-1-carboxylate | 0.43 mmol, 150 mg, 1 eq | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | methyl 4-[(4-fluoropiperidin-1-yl)methyl]benzoate | 0.52 mmol, 131 mg, 1.2 eq | FC1CCN(CC1)CC1=CC=C(C(=O)OC)C=C1 | C14H18FNO2
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | THF | 0.65 mmol, 1 M, 0.65 ml, 1.5 eq | C1CCOC1 | C4H8O
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-[(4-fluoropiperidin-1-yl)methyl]benzamide | 33 mg, 16% yield | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(C1=CC=C(C=C1)CN1CCC(CC1)F)=O | C26H31FN4O3
